2115-02-20 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -received 2uFFP, 2upRBCs & 1L of IVF, hct bumped from 15-18
   -currently receiving 2upRBCs, post transfusion hct
   -difficult access, labs pending
   -significant sleep apnea noted o/n with desats in 70s
   Pt comfortable this am, denies abd pain/CP/SOB. Pt reports a BM on
   arrival to ICU, none since
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-2-20**] 02:30 AM
   Other medications:
   Flowsheet Data as of  [**2115-2-20**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 66 (64 - 80) bpm
   BP: 118/64(76) {101/44(59) - 141/73(87)} mmHg
   RR: 16 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
           Total In:
           702 mL
   PO:
           TF:
   IVF:
   350 mL
   Blood products:
   352 mL
   Total out:
                                                                    200 mL
                                                                    545 mL
   Urine:
                                                                    200 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                    157 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, supple neck
   Cardiovascular: irreg/irreg (distant heart sounds due to bodily
   habitus)
   Respiratory / Chest: (Symmetric), (Clear ), no w/r, snoring when asleep
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: +[**12-5**] pitting edema with chronic venous stasis
   changes,  Left: Trace pitting edema
   Labs / Radiology
   Urine +eosinophils
   WBC 7.4, Hgb 7.8, Hct 22.9. Plt 275
   PT 28.1, PTT 28, INR 2.8
   Gluc 227, BUN 72, Creatinine 2.0, Na 138, K 5.2, Cl 105, Bicarb 27
                             [**2115-2-19**]  11:54 PM
   Hct
   18.0
   Assessment and Plan
   74 y/o M presents with c/o fatigue, melena & hct of 15, on coumadin for
   A. Fib with an INR of 3.
   .
   #) GI Bleed: likely an UGIB given melena and hx of NSAID use; however,
   cannot exclude a high LGIB.  Pt was well compensated with a Hct of 15
   suggesting a subacute bleed. INR trended down slightly from 3.1 to 2.8
   with FFP & Vit K.  Hct bumped from 15 to 18 with 2uFFP, 2upRBCs & IVF,
   may still have ongoing bleed.  Normotensive overnight, no tachycardia.
   Will give an additional 2u FFP today & Vit K to reverse INR for
   possible EGB later
   - f/u GI recs, t/b regarding possible EGD later today
   - 2 large bore PIV
   - type & cross active, currently receiving 5^thunit now, f/u post
   transfusion hct
   - f/u q6hr hct & transfusion goal >27
   - continue IV PPI gtt for 72hrs
   - keep pt NPO for now
   .
   #) A. Fibrillation: rate controlled, but reports poor compliance with
   BB home regimen. INR has not corrected  with Vit K & FFP.
   - transfuse addl 2uFFP now & f/u INR
   - holding anti-hypertensives
   - holding Coumadin in setting of GI bleed.
   .
   #) Renal Failure: unclear if this is acute or chronic as no documented
   baseline. Given degree of blood loss, pt likely has some prerenal
   azotemia. NSAID may have caused AIN given +eosinophils on UA.  Holding
   BB for now.
   - will contact PCP at [**Name9 (PRE) 1707**] today regarding [**Name (NI) 1708**] & baseline renal
   function
   - FENA =1 which is less consistent with pre-renal azotemia
   - monitor creatinine & avoid nephrotoxins (holding all NSAIDs)
   - receiving blood & currently normotensive
   - gentle IVF after blood complete while NPO
   .
   #) FEN:  NPO for EGD. K mildly elevated at 5.2, no EKG changes
   - continue to monitor on telemetry, f/u pm lytes & give kayexalate for
   K>5.5
   - corrected Calcium normal at 8.7
   - will f/u ionized Ca & continue replacement scales for Magnesium,
   Calcium
   .
   #) DM: holding all oral agents in setting of renal failure
   - BS QIDACHS, insulin sliding scale
   .
   #) ?hx of DVT: holding anticoagulation in setting of hct drop & GI
   bleed
   - f/u lower lower extr u/s
   - pt may need IVC filter in post op setting as anti-coagulation
   contraindicated currently
   .
   #) Knee pain:
   - stop celebrex
   - will give standing tylenol and PRN oxycodone for pain
   .
   ICU Care
   Nutrition: NPO
   Glycemic Control: ISS
   Lines: 18 Gauge - [**2115-2-19**] 10:12 PM
   20 Gauge - [**2115-2-19**] 10:13 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: PPI gtt
   Code status: Full code
   Disposition: ICU

2115-02-20 09:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 y.o. male s/p recent TKR at NEBH was at [**Hospital1 169**] on Coumadin and noted to
   have with lethargy, relative hypotension (?90
s/p), and dark stools.
   Sent to ED where HCT 15, inr 3.1, tx 2 UPRBC, 2 U FFP. GI consulted.
   Plan for EGD when INR wnl.
   MEDS PTA: coumadin ~7.5mg daily for afib, bactrim ds 1tab [**Hospital1 **] (unclear
   start
   date), celebrex 200mg [**Hospital1 **], lovenox 40mg daily (appears to have
   been given per nursing flow sheet, proph from TKR?), flomax 0.4mg
   daily, metformin
   [**Hospital1 **], glucotrol xl [**Hospital1 **], colace, senna, prilosec 20mg daily,
   lisinopril 20mg daily, vicodin prn
   Of note he tells GI consult he has been taking 800mg [**Hospital1 **] ibuprofen for
   several weeks- although this is not reflected on his med sheets from
   the [**Hospital1 169**].
   24 Hour Events:
   Transfused total 4 units PRBC, FFP, Vit K
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-2-20**] 01:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-20**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.8
C (96.5
   HR: 61 (61 - 80) bpm
   BP: 113/43(60) {101/43(59) - 141/73(87)} mmHg
   RR: 13 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
           Total In:
           942 mL
   PO:
           TF:
   IVF:
   253 mL
   Blood products:
   690 mL
   Total out:
                                                                    200 mL
                                                                    955 mL
   Urine:
                                                                    200 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious, Malampati class
   IV
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Normal), irreg, irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), Distant breath sounds
   Musculoskeletal: chronic venous stasis changes,   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   275 K/uL
   227 mg/dL
   2.0 mg/dL
   27 mEq/L
   5.2 mEq/L
   72 mg/dL
   105 mEq/L
   138 mEq/L
   22.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2115-2-19**]  11:54 PM
                             [**2115-2-20**]  06:08 AM
   WBC
   7.4
   Hct
   18.0
   22.9
   Plt
   275
   Cr
   2.0
   Glucose
   227
   Other labs: PT / PTT / INR:28.1/28.0/2.8, Ca++:7.7 mg/dL, Mg++:2.5
   mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: U/a - neg
   Hct 22.9 from 15 after total 4 u PRBC
   B UN 81, Creat 2.1 on admit
   Assessment and Plan
   74 yr old man s/p right TKR on coumadin, lovenox and NSAID use presents
   with melena, HCT 15
   1.       GIB: likely UGIB with ulcers in setting of NSAIDs, sp FFP and
   Vit K, 4 units PRBC. To keep Hct >23, check q6h Hct. Need to correct
   coagulopathy. Repeat vit K as this was not documented to be given but
   was ordered in ED.
   2.       ARF: acute versus chronic
acute concern given rising K, and
   patient denies a hx of renal insufficiency. Will call PCP in AM to get
   baseline and try to obtain records from [**Hospital 1**] Medical Center. Also
   NSAID toxicity. Urine eos suggests possible AIN.
   3.       Afib: rate controlled, holding anticoag and bblocker in
   setting of GIB
   4.       Pain: tylenol
   5.       DM: SSRI, FS QID
   6.      OSA: none by history but significant desats at night to 78%,
   snoring, body habitus all consistent with dx.
   7.      S/p TKR [**2115-2-9**]. Agree with checking LENIs to r/o DVT even
   though unlikely given high INR. Might prompt IVC filter
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale, Comments: NPO
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   20 Gauge - [**2115-2-19**] 10:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU,  Total time spent: 35 minutes critical care, Patient
   is critically ill

2115-02-21 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2115-2-20**] 03:57 PM
   -- prior medical records obtained.  Patient had been discharged from
   NE-B w/ HCT of 28 and Cr 1.3
   -- PICC line placed
   -- Patient given 2U FFP and Vit K, INR down to 1.7
   -- Hct dropped from 27 --> 21.6, continued melena stools.  BP/HR stable
   and pt w/o complaints.  Pt transfused 2U PRBC and GI FYI'd.
   -- LENI's ordered, never done
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Diarrhea, No(t) Constipation, blood in stool
   Musculoskeletal: Joint pain
   Flowsheet Data as of  [**2115-2-21**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 65 (32 - 69) bpm
   BP: 116/60(72) {113/43(60) - 157/81(100)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
           Total In:
                                                                  3,093 mL
                                                                    561 mL
   PO:
           TF:
   IVF:
                                                                  1,256 mL
                                                                    186 mL
   Blood products:
                                                                  1,836 mL
                                                                    375 mL
   Total out:
                                                                  3,130 mL
                                                                    970 mL
   Urine:
                                                                  3,130 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -37 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, irreg, irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: ), distant
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   275 K/uL
   8.3 g/dL
   236 mg/dL
   1.4 mg/dL
   25 mEq/L
   5.1 mEq/L
   55 mg/dL
   108 mEq/L
   140 mEq/L
   23.8 %
   7.7 K/uL
        [image002.jpg]
                             [**2115-2-19**]  11:54 PM
                             [**2115-2-20**]  06:08 AM
                             [**2115-2-20**]  11:53 AM
                             [**2115-2-20**]  04:19 PM
                             [**2115-2-20**]  07:30 PM
                             [**2115-2-20**]  11:00 PM
                             [**2115-2-21**]  06:00 AM
   WBC
   7.4
   7.2
   7.7
   Hct
   18.0
   22.9
   26.1
   27.0
   25.9
   21.6
   23.8
   Plt
   275
   301
   275
   Cr
   2.0
   1.9
   1.4
   Glucose
   227
   232
   236
   Other labs: PT / PTT / INR:17.4/24.1/1.6, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   74 y/o M presents with c/o fatigue, melena & hct of 15, on coumadin for
   A. Fib with an INR of 3.
   #) GI Bleed: I suspect this is an UGIB given melena and hx of NSAID
   use; however, cannot exclude a high LGIB as well. I also suspect this
   must have been a subacute process as his Hct was 15, but he is not
   particularly tachycardic and only felt gradual fatigue. INR has been
   reversed with vitamin K (not documented in chart but per verbal
   sign-out) and FFP.  s/p 8 units pRBCs and 3 units FFP.
   - appreciate GI recs
   - 2 large bore PIV
   - type & cross active, transfuse for Hct<21
   - PPI gtt
   - EGD in am
   - if actively becomes unstable, will need NG lavage
   #) A. Fibrillation: Patient is well rate controlled, but interestingly
   does not take BB regularly.
   - holding Coumadin in setting of GI bleed.
   .
   #) Renal Failure: I am unclear if this is acute or chronic and no
   baseline. Regardless, given degree of blood loss, he will likely have
   prerenal azotemia. NSAID use may also contribute.  Rare urine eos
   likely spurious, unlikely to be AIN while still able to concentrate
   urine so well.
   - monitor creatinine & avoid nephrotoxins
   #) DM:
   - hold all oral agents in setting of renal failure
   - ISS
   #) ? hx of DVT:
   - would LENI bilateral LE to confirm R popliteal
   - IVC filter in DVT as cannot be anticoagulated at this time
   .
   #) Knee pain: Right knee arthoplasty [**2-13**]
   - stop celebrex
   - will give RTC tylenol and PRN oxycodone for pain
   - PT consult
   .
   #) FEN:
   - NPO for EGD
   - check K and would give kayexalate for K>6 or if ectopy or peaked T's
   on EKG
   -replacement scales for Magnesium, Calcium
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   20 Gauge - [**2115-2-20**] 10:00 AM
   PICC Line - [**2115-2-20**] 03:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2115-02-21 11:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Picc inserted.
   Vit K given.
   Remained with stable BP/HR overnight with bradycardia to 36, ? afib vs
   junctional
   Received 2 additional units PRBC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Melena stools
   Flowsheet Data as of  [**2115-2-21**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 64 (32 - 69) bpm
   BP: 123/66(80) {116/54(70) - 151/81(100)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
           Total In:
                                                                  3,093 mL
                                                                    625 mL
   PO:
           TF:
   IVF:
                                                                  1,256 mL
                                                                    250 mL
   Blood products:
                                                                  1,836 mL
                                                                    375 mL
   Total out:
                                                                  3,130 mL
                                                                  1,650 mL
   Urine:
                                                                  3,130 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -37 mL
                                                                 -1,025 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress. Chest clear. S1S2 irreg. [**Last Name (un) **]
   soft, BS present, nontender.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Neurologic: grossly nonfocal
   Labs / Radiology
   8.3 g/dL
   275 K/uL
   236 mg/dL
   1.4 mg/dL
   25 mEq/L
   5.1 mEq/L
   55 mg/dL
   108 mEq/L
   140 mEq/L
   23.5 %
   7.7 K/uL
        [image002.jpg]
                             [**2115-2-19**]  11:54 PM
                             [**2115-2-20**]  06:08 AM
                             [**2115-2-20**]  11:53 AM
                             [**2115-2-20**]  04:19 PM
                             [**2115-2-20**]  07:30 PM
                             [**2115-2-20**]  11:00 PM
                             [**2115-2-21**]  06:00 AM
                             [**2115-2-21**]  09:35 AM
   WBC
   7.4
   7.2
   7.7
   Hct
   18.0
   22.9
   26.1
   27.0
   25.9
   21.6
   23.8
   23.5
   Plt
   275
   301
   275
   Cr
   2.0
   1.9
   1.4
   Glucose
   227
   232
   236
   Other labs: PT / PTT / INR:17.4/24.1/1.6, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: Creat now at baseline
   Assessment and Plan
   74 yr old man s/p right TKR on coumadin, lovenox and question of NSAID
   use, presents with melena, HCT 15 due to acute GI bleed.
   1.      GIB: likely UGIB in setting of NSAIDs, s/p FFP x 3, Vit K,
   total of 8 units PRBC. To keep Hct >23, INR < 1.5, continue to check
   q6h Hct. GI about to scope this AM. If no visible source, will consider
   CTA to r/o retroperitoneal bleed vs tagged rbc scan.
   2.      ARF: creat at discharge on [**2-17**] was 1.5. Will try to obtain
   records from [**Hospital 1**] Medical Center. Also NSAID toxicity. Urine eos
   suggests possible AIN.
   3.       Afib: bradycardia to 36 overnight, appears to be in afib vs
   junctional. Anticoag on hold. Was not on beta blocker. Would appreciate
   EP input.
   4.       Pain: tylenol
   5.       DM: SSRI, FS QID
   6.      OSA: none by history but significant desats at night to 78%,
   snoring, body habitus all consistent with dx. Will need f/u.
   7.      Popliteal DVT S/p TKR [**2115-2-9**]. Agree with indication for IVC
   filter.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   20 Gauge - [**2115-2-20**] 10:00 AM
   PICC Line - [**2115-2-20**] 03:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes critical care time

2115-02-22 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2115-2-21**] 09:51 AM
 ENDOSCOPY - At [**2115-2-21**] 11:14 AM
 ENDOSCOPY - At [**2115-2-21**] 12:15 PM
   - EGD showed large ulcer, transfusion goal HCT>25, transfused 1unit
   pRBCs
   - bradycardic to 26, seen by EP who states no need for pacer unless pt
   symptomatic from bradycardia or has pause >5s.  pt subsequenlty had
   pause lasting more than 6 seconds and feels short of breath with
   bradycardia
   - pt refused bipap
   - LENI - showed right popliteal clot, age undetermined, scheduled fir
   IVC filter placement [**2-22**] am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2115-2-21**] 11:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-22**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 58 (57 - 81) bpm
   BP: 131/66(84) {111/40(63) - 150/111(90)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,004 mL
                                                                    171 mL
   PO:
             TF:
   IVF:
                                                                  1,629 mL
                                                                    171 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,655 mL
                                                                    770 mL
   Urine:
                                                                  3,655 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,651 mL
                                                                   -599 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   268 K/uL
   8.0 g/dL
   194 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.4 mEq/L
   35 mg/dL
   114 mEq/L
   145 mEq/L
   23.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2115-2-20**]  11:53 AM
                             [**2115-2-20**]  04:19 PM
                             [**2115-2-20**]  07:30 PM
                             [**2115-2-20**]  11:00 PM
                             [**2115-2-21**]  06:00 AM
                             [**2115-2-21**]  09:35 AM
                             [**2115-2-21**]  12:55 PM
                             [**2115-2-21**]  05:05 PM
                             [**2115-2-21**]  09:22 PM
                             [**2115-2-22**]  03:38 AM
   WBC
   7.2
   7.7
   7.3
   6.7
   Hct
   26.1
   27.0
   25.9
   21.6
   23.8
   23.5
   24.2
   22.8
   22.0
   23.1
   Plt
   [**Telephone/Fax (3) 1733**]68
   Cr
   1.9
   1.4
   1.3
   1.2
   Glucose
   232
   236
   220
   194
   Other labs: PT / PTT / INR:17.7/26.4/1.6, Ca++:8.1 mg/dL, Mg++:1.6
   mg/dL, PO4:2.5 mg/dL
   Imaging: EGD:
   Normal mucosa in the whole esophagus
   Normal mucosa in the whole stomach
   Ulcer in the duodenal bulb (injection)
   Otherwise normal EGD to second part of the duodenum
   LENI:
   Non-occlusive thrombus in the right popliteal vein, age indeterminate.
   Assessment and Plan
   74 y/o M presents with c/o fatigue, melena & hct of 15, on coumadin for
   A. Fib with an INR of 3.
   #) GI Bleed: I suspect this is an UGIB given melena and hx of NSAID
   use; however, cannot exclude a high LGIB as well. I also suspect this
   must have been a subacute process as his Hct was 15, but he is not
   particularly tachycardic and only felt gradual fatigue. INR has been
   reversed with vitamin K (not documented in chart but per verbal
   sign-out) and FFP.  s/p 9 units pRBCs and 3 units FFP.  Ulcer
   visualized within duodenal bulb.
   - appreciate GI recs
   - 2 large bore PIV
   - type & cross active, transfuse for Hct<28
   - PPI gtt
   - non-con CT abdomen to r/o retroperitoneal bleed
   - will need colonoscopy while inpatient, try for Monday
   - if non-con CT unrevealing and continues to drop HCT, consider cont CT
   with oral cont following bowel prep on monday
   - if actively becomes unstable, repeat endoscopy v tagged red cell scan
   v arteriogram
   - H.pylori serology pending
   #) A. Fibrillation: Patient is well rate controlled, but interestingly
   does not take BB regularly.   Pt having episodes of bradycardia to as
   low as 26 with up to 6second pauses.  [**Last Name (un) **] by EP who did not feel pacer
   indicated at this time, however, stated that pause >5s or symptomatic
   bradycardia would be indication.  Pt has since had a 6 s pause and also
   notes shortness of breath with bradycardia.
   - talk to EP again this am re need for pacer
   - holding Coumadin in setting of GI bleed.
   #) Renal Failure: Baseline as of [**2-17**] 1.65.  Given degree of blood
   loss, he will likely have prerenal azotemia. NSAID use may also
   contribute.  Rare urine eos likely spurious, unlikely to be AIN while
   still able to concentrate urine so well.   Improving.
   - monitor creatinine & avoid nephrotoxins
   #) DM:
   - hold all oral agents in setting of renal failure
   - ISS
   #) ? hx of DVT:  LENI showed right popliteal clot, age indeterminate
   - IVC filter to be placed this am, as cannot be anticoagulated at this
   time
   #) Knee pain: Right knee arthoplasty [**2-13**]
   - stop celebrex
   - will give RTC tylenol and PRN oxycodone for pain
   - PT consult
   #) FEN:
   - NPO for procedures, can advance to clears when complete
   - check K and would give kayexalate for K>6 or if ectopy or peaked T's
   on EKG
   -replacement scales for Magnesium, Calcium
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   20 Gauge - [**2115-2-20**] 10:00 AM
   PICC Line - [**2115-2-20**] 03:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to floor

2115-02-22 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EGD - ulcer in duodenal bulb
   Refused BiPAP
   Transfused 1 u PRBC at 22:00
   Last night brady to high 20s with 6 second pause
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2115-2-21**] 11:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-22**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 62 (57 - 81) bpm
   BP: 136/93(102) {111/40(63) - 150/111(102)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
           Total In:
                                                                  2,197 mL
                                                                    666 mL
   PO:
           240 mL
   TF:
   IVF:
                                                                  1,629 mL
                                                                    243 mL
   Blood products:
                                                                    568 mL
                                                                    183 mL
   Total out:
                                                                  3,655 mL
                                                                  1,220 mL
   Urine:
                                                                  3,655 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,458 mL
                                                                   -554 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   268 K/uL
   194 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.4 mEq/L
   35 mg/dL
   114 mEq/L
   145 mEq/L
   23.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2115-2-20**]  11:53 AM
                             [**2115-2-20**]  04:19 PM
                             [**2115-2-20**]  07:30 PM
                             [**2115-2-20**]  11:00 PM
                             [**2115-2-21**]  06:00 AM
                             [**2115-2-21**]  09:35 AM
                             [**2115-2-21**]  12:55 PM
                             [**2115-2-21**]  05:05 PM
                             [**2115-2-21**]  09:22 PM
                             [**2115-2-22**]  03:38 AM
   WBC
   7.2
   7.7
   7.3
   6.7
   Hct
   26.1
   27.0
   25.9
   21.6
   23.8
   23.5
   24.2
   22.8
   22.0
   23.1
   Plt
   [**Telephone/Fax (3) 1733**]68
   Cr
   1.9
   1.4
   1.3
   1.2
   Glucose
   232
   236
   220
   194
   Other labs: PT / PTT / INR:17.7/26.4/1.6, Ca++:8.1 mg/dL, Mg++:1.6
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   74 yr old man s/p right TKR on coumadin, lovenox and question of NSAID
   use, presents with melena, HCT 15 due to acute GI bleed.
   1.      UGIB: due to duodenal bulb ulcer. S/p FFP x 3, Vit K, total of
   9 units PRBC. To keep Hct >23, INR < 1.5, continue to check q6h Hct.
            Anemia likely all to to GI bleed however unusual that he has
   not had melena or othe bowel movement post 9 units prbc. Agree with
   check Ct for RP bleed.
   2.      ARF: improving, creat at discharge on [**2-17**] was 1.5, now 1.2.
   Will try to obtain records from [**Hospital 1**] Medical Center.
   3.       Afib: bradycardia to high 20s overnight with 6 second, appears
   to be in afib vs junctional. Anticoag on hold.
             Appreciate EP's input.
   4.       Pain: tylenol
   5.       DM: SSRI, FS QID
   6.      OSA: refused BiPAP last night. No OSA documented but
   significant desats at night to 78%, snoring, body habitus all
   consistent with dx. Will need f/u.
   7.      Popliteal DVT S/p TKR [**2115-2-9**]. Agree with indication for IVC
   filter.
   ICU Care
   Nutrition: will advance to clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   20 Gauge - [**2115-2-20**] 10:00 AM
   PICC Line - [**2115-2-20**] 03:57 PM
   Prophylaxis:
   DVT: (IVC filter to be placed)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 min critical care time. Patient is critically ill

2115-02-23 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - abd CT showed no e/o retroperitoneal bleed
   - had large melanotic stool & hct has been bumping approp to
   transfusions
   - noted to have worsened RLE swelling/tenseness concerning for hematoma
   - RLE CT showed no hematoma, ?air c/w infection vs post surgical
   changes
   - EP consulted, no plan for pacemaker placment currently, prefer to
   treat Apnea first
   - had nasal cpap on overnight
   - receivied 1U PRBC at 10am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-23**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 60 (59 - 69) bpm
   BP: 140/71(89) {128/47(68) - 158/93(102)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,596 mL
                                                                    160 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    559 mL
                                                                    160 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  2,640 mL
                                                                    360 mL
   Urine:
                                                                  2,640 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,044 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   normoactive BS
   Extremities: Right: 1+, Left: 1+, surgical site on right knee c/d/i,
   venous stasis changes, tnse
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   8.8 g/dL
   165 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.7 mEq/L
   25 mg/dL
   108 mEq/L
   141 mEq/L
   25.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2115-2-20**]  11:00 PM
                             [**2115-2-21**]  06:00 AM
                             [**2115-2-21**]  09:35 AM
                             [**2115-2-21**]  12:55 PM
                             [**2115-2-21**]  05:05 PM
                             [**2115-2-21**]  09:22 PM
                             [**2115-2-22**]  03:38 AM
                             [**2115-2-22**]  04:13 PM
                             [**2115-2-22**]  10:34 PM
                             [**2115-2-23**]  03:29 AM
   WBC
   7.7
   7.3
   6.7
   6.6
   Hct
   21.6
   23.8
   23.5
   24.2
   22.8
   22.0
   23.1
   26.9
   29.5
   25.7
   Plt
   275
   280
   268
   273
   Cr
   1.4
   1.3
   1.2
   1.1
   Glucose
   [**Telephone/Fax (3) 1747**]65
   Other labs: PT / PTT / INR:17.5/23.8/1.6, Ca++:8.5 mg/dL, Mg++:1.6
   mg/dL, PO4:3.2 mg/dL
   Imaging: CT of Leg: WET READ- complex appearing fluid/phlegmon in the
   supra patelar spce ( in the knee
   joint). This collection contains gas inthe nondependent positions.
   Similar
   appearing collectionis noted inthe right prepatellar space. Although
   these
   findings may be post surgical, infection is also likely based ontheir
   complex
   appearnce. No hematoma in the right lower extrtemity.[**Doctor Last Name 1748**] DW [**Doctor Last Name **].
   CT abd/pelvis:  IMPRESSION:
   1.  No evidence of intra- or retro-peritoneal hemorrhage.
   2.  Right basilar atelectasis.
   3.  Status post cholecystectomy.
   4.  IVC filter.
   5.  Eleven-mm calcification in the right lower quadrant mesenteric fat
   which
   could represent a dropped gallstone or a calcified lymph node.
   6.  Sigmoid diverticulosis without evidence of diverticulitis
   7.  Mild anasarca.
   8.  Fat-containing dilated inguinal hernias bilaterally.
   Microbiology: H. Pylori- negative
   Assessment and Plan
   74 y/o M presents with c/o fatigue, melena & hct of 15, on coumadin for
   A. Fib with an INR of 3.
   #) GI Bleed: s/p EGD w/ visualized ulcer in duodenal bulp.  Pt had epi
   injected for hemostatis and endoclip placed.  Pt continues to have
   melanotic stools, but HCT now stable yesterday.  Was started on IV PPI
   gtt on admission, and now has complete 72 hrs of therapy.  Will
   continues as patient is showing continued evidence of bleeding (per
   GI.)  H. Pylori negative.  Some conern that had not responded
   appropriately to 11U PRBC and decided to pursue other [**1-5**] source or
   bleed.  Abd/pelvis CT negative for RP bleed.  Also, patient had
   increased swelling of knee and concern of hematoma of kneed at surgical
   site, WET READ negative.
   - appreciate GI recs, planned EGD/[**Last Name (un) **] on Monday.  Will prep patient
   tomorrow
   - 1 PICC line and large bore IV for access
   -  transfuse for Hct<25
   - PPI gtt s/p 72 hrs, will continue until after source of continued
   bleeding identified
   - if actively becomes unstable, repeat endoscopy v tagged red cell scan
   v arteriogram vs surgical c/s
   - Hct continues to trend down, and has not been adquatly maintained
   despite 11U BRPC.
   #) Bradycardia:    Pt having episodes of bradycardia to as  low as 26
   with up to 6second pauses.  Seen by EP who did not feel pacer indicated
   at this time, however, stated that pause >5s or symptomatic bradycardia
   would be indication.  Pt has since had a 6 s pause and also notes
   shortness of breath with bradycardia.  EP will defer PPM placement
   until after treatment of apnea
   -          holding Coumadin in setting of GI bleed.
   -          CPAP last night at 8 and tolerated well, will attempt
   autoCPAP tonight
   #OSA:  Patient w/ severe OSA and associated bradycardia/sinus pauses w/
   high vagal tone.  Tolerated CPAP last night, will attempt autoCPAP or
   BIPAP.
   #) Renal Failure: Baseline as of [**2-17**] 1.3  Given degree of blood loss,
   he will likely have prerenal azotemia. NSAID use may also contribute.
   Rare urine eos likely spurious, unlikely to be AIN while still able to
   concentrate urine so well.   Resolved.
   - monitor creatinine & avoid nephrotoxins
   #) DM:
   - hold all oral agents in setting of renal failure
   - ISS
    #) ? hx of DVT:  LENI showed right popliteal clot, age indeterminate
   - IVC filter to be placed yesterday, as cannot be anticoagulated at
   this time
   #) Knee pain: Right knee arthoplasty [**2-13**]
   - stop celebrex
   - will give RTC tylenol and PRN oxycodone for pain
   - CT neative for hematoma, but some question of air bubbles c/w
   infection.  No fevers/elevated WBC.  Will f/u final read, and if read
   as concerning, will call ortho
   - PT consult
   ICU Care
   Nutrition:
   Comments: Currently NPO, will give soft diet today, and then bowel prep
   tomorrow.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   20 Gauge - [**2115-2-20**] 10:00 AM
   PICC Line - [**2115-2-20**] 03:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU tonight, and if Hct relativly stable, will call out
   tomorrow

2115-02-23 12:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT [**Last Name (un) 499**] - no RP bleed
   Last transfusion, 2 units PRBC [**2-22**] at 10 am
   Tolerated nasal CPAP 8 cmH2O
   No >5 sec pauses last night
   ROS - no N/V, denies SOB, chest pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-23**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 57 (57 - 69) bpm
   BP: 127/48(69) {122/47(68) - 158/102(116)} mmHg
   RR: 22 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,596 mL
                                                                    459 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    559 mL
                                                                    219 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  2,640 mL
                                                                    680 mL
   Urine:
                                                                  2,640 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,044 mL
                                                                   -221 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), irreg rhythm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   273 K/uL
   165 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.7 mEq/L
   25 mg/dL
   108 mEq/L
   141 mEq/L
   25.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2115-2-20**]  11:00 PM
                             [**2115-2-21**]  06:00 AM
                             [**2115-2-21**]  09:35 AM
                             [**2115-2-21**]  12:55 PM
                             [**2115-2-21**]  05:05 PM
                             [**2115-2-21**]  09:22 PM
                             [**2115-2-22**]  03:38 AM
                             [**2115-2-22**]  04:13 PM
                             [**2115-2-22**]  10:34 PM
                             [**2115-2-23**]  03:29 AM
   WBC
   7.7
   7.3
   6.7
   6.6
   Hct
   21.6
   23.8
   23.5
   24.2
   22.8
   22.0
   23.1
   26.9
   29.5
   25.7
   Plt
   275
   280
   268
   273
   Cr
   1.4
   1.3
   1.2
   1.1
   Glucose
   [**Telephone/Fax (3) 1747**]65
   Other labs: PT / PTT / INR:17.5/23.8/1.6, Ca++:8.5 mg/dL, Mg++:1.6
   mg/dL, PO4:3.2 mg/dL
   Imaging: No hematoma of right knee on CT.
   Assessment and Plan
   74 yr old man s/p right TKR on coumadin, lovenox and question of NSAID
   use, presents with melena, HCT 15 due to acute GI bleed.
   1.      UGIB: due to duodenal bulb ulcer.
            S/p FFP x 3, Vit K, total of 11 units PRBC. To keep Hct >23,
   INR < 1.5, continue to check q6h Hct.  Continue PPI drip per GI. To be
   scoped upper/lower on [**2-25**].
            Transfuse PRN to keep Hct 23
   2.      ARF: improving, creat at discharge on [**2-17**] was 1.5, now 1.2.
   Will try to obtain records from [**Hospital 1**] Medical Center.
   3.       Afib: bradycardia to high 20s overnight with 6 second, appears
   to be in afib vs junctional. Anticoag on hold.
             Appreciate EP's input.
   4.       Pain: tylenol, oxycodone prn
   5.       DM: SSRI, FS QID
   6.      OSA: refused BiPAP initially but tolerated CPAP 8 cmH2O last
   night. Feels subjectively more alert today. Will try to obtain autoCPAP
   or alternatively switch to BiPAP 12/8.
            No OSA documented but significant desats at night to 78%,
   snoring, body habitus all consistent with dx. Will need f/u as
   outpatient with formal split night study.
   7.      Age indeterminate popliteal DVT S/p TKR [**2115-2-9**]. S/p IVC filter
   [**2-22**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   PICC Line - [**2115-2-20**] 03:57 PM
   Prophylaxis:
   DVT: IVC filter
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes critical care time

2115-02-24 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- given soft diet.  Will get clear liquids today and prep for
   colonoscopy for monday.
   -- hct stable
   --transfused 1U PRBC
   -- put on BiPAP overnight
   -- CT of leg w/o final read.  Curbsided ortho, never heard back.
   -- hyperglymic throughout day after starting on diet.  Deffered
   starting oral hypoglycmic agents.  Increased SS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-24**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 58 (54 - 74) bpm
   BP: 124/53(71) {111/48(67) - 155/75(94)} mmHg
   RR: 15 (10 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,820 mL
                                                                    185 mL
   PO:
                                                                  1,300 mL
             TF:
   IVF:
                                                                    520 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    400 mL
   Urine:
                                                                  1,580 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, distant heart sounds [**1-5**] body habitus
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   408 K/uL
   10.1 g/dL
   142 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.4 mEq/L
   22 mg/dL
   108 mEq/L
   142 mEq/L
   31.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2115-2-21**]  12:55 PM
                             [**2115-2-21**]  05:05 PM
                             [**2115-2-21**]  09:22 PM
                             [**2115-2-22**]  03:38 AM
                             [**2115-2-22**]  04:13 PM
                             [**2115-2-22**]  10:34 PM
                             [**2115-2-23**]  03:29 AM
                             [**2115-2-23**]  05:16 PM
                             [**2115-2-23**]  11:01 PM
                             [**2115-2-24**]  05:21 AM
   WBC
   7.3
   6.7
   6.6
   8.4
   Hct
   24.2
   22.8
   22.0
   23.1
   26.9
   29.5
   25.7
   32.8
   31.3
   31.0
   Plt
   280
   268
   273
   408
   Cr
   1.3
   1.2
   1.1
   1.1
   Glucose
   220
   194
   165
   142
   Other labs: PT / PTT / INR:14.0/22.7/1.2, ALT / AST:24/30, Alk Phos / T
   Bili:39/0.9, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:8.5 mg/dL, Mg++:1.6
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   74 y/o M presents with c/o fatigue, melena & hct of 15, on coumadin for
   A. Fib with an INR of 3.
   #) GI Bleed: s/p EGD w/ visualized ulcer in duodenal bulp.  Pt had epi
   injected for hemostatis and endoclip placed.  Pt continues to have
   melanotic stools, but HCT now stable yesterday.  Was started on IV PPI
   gtt on admission, and now has complete 72 hrs of therapy.  Will
   continues as patient is showing continued evidence of bleeding (per
   GI.)  H. Pylori negative.  Some conern that had not responded
   appropriately to 11U PRBC and decided to pursue other [**1-5**] source or
   bleed.  Abd/pelvis CT negative for RP bleed.  Also, patient had
   increased swelling of knee and concern of hematoma of kneed at surgical
   site, WET READ negative.
   - appreciate GI recs, planned EGD/[**Last Name (un) **] on Monday.  Will prep patient
   tomorrow
   - 1 PICC line and large bore IV for access
   -  transfuse for Hct<25
   - PPI gtt s/p 72 hrs, will continue until after source of continued
   bleeding identified
   - if actively becomes unstable, repeat endoscopy v tagged red cell scan
   v arteriogram vs surgical c/s
   - Hct continues to trend down, and has not been adquatly maintained
   despite 11U BRPC.
   #) Bradycardia:    Pt having episodes of bradycardia to as  low as 26
   with up to 6second pauses.  Seen by EP who did not feel pacer indicated
   at this time, however, stated that pause >5s or symptomatic bradycardia
   would be indication.  Pt has since had a 6 s pause and also notes
   shortness of breath with bradycardia.  EP will defer PPM placement
   until after treatment of apnea
   -          holding Coumadin in setting of GI bleed.
   -          CPAP last night at 8 and tolerated well, will attempt
   autoCPAP tonight
   #OSA:  Patient w/ severe OSA and associated bradycardia/sinus pauses w/
   high vagal tone.  Tolerated CPAP last night, will attempt autoCPAP or
   BIPAP.
   #) Renal Failure: Baseline as of [**2-17**] 1.3  Given degree of blood loss,
   he will likely have prerenal azotemia. NSAID use may also contribute.
   Rare urine eos likely spurious, unlikely to be AIN while still able to
   concentrate urine so well.   Resolved.
   - monitor creatinine & avoid nephrotoxins
   #) DM:
   - hold all oral agents in setting of renal failure
   - ISS
    #) ? hx of DVT:  LENI showed right popliteal clot, age indeterminate
   - IVC filter to be placed yesterday, as cannot be anticoagulated at
   this time
   #) Knee pain: Right knee arthoplasty [**2-13**]
   - stop celebrex
   - will give RTC tylenol and PRN oxycodone for pain
   - CT neative for hematoma, but some question of air bubbles c/w
   infection.  No fevers/elevated WBC.  Will f/u final read, and if read
   as concerning, will call ortho
   - PT consult
   ICU Care
   Nutrition:
   Comments: Currently NPO, will give soft diet today, and then bowel prep
   tomorrow.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   20 Gauge - [**2115-2-20**] 10:00 AM
   PICC Line - [**2115-2-20**] 03:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU tonight, and if Hct relativly stable, will call out
   tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   PICC Line - [**2115-2-20**] 03:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2115-02-24 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events/ ROS
   PPI infusion continued per GI. Started on soft diet, to be prepped for
   colonoscopy today. Transfused 1 unit prbc
   Slept very well on BiPAP last night. Denies all complaints except mild
   knee pain.
   Seen by ortho for CT knee showing air - per ortho, not abnormal to see
   this.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-24**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 63 (54 - 74) bpm
   BP: 124/62(78) {111/51(67) - 155/75(94)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,820 mL
                                                                    523 mL
   PO:
                                                                  1,300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    520 mL
                                                                    283 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    640 mL
   Urine:
                                                                  1,580 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: right knee surgical site warm, no erythema
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   408 K/uL
   142 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.4 mEq/L
   22 mg/dL
   108 mEq/L
   142 mEq/L
   31.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2115-2-21**]  12:55 PM
                             [**2115-2-21**]  05:05 PM
                             [**2115-2-21**]  09:22 PM
                             [**2115-2-22**]  03:38 AM
                             [**2115-2-22**]  04:13 PM
                             [**2115-2-22**]  10:34 PM
                             [**2115-2-23**]  03:29 AM
                             [**2115-2-23**]  05:16 PM
                             [**2115-2-23**]  11:01 PM
                             [**2115-2-24**]  05:21 AM
   WBC
   7.3
   6.7
   6.6
   8.4
   Hct
   24.2
   22.8
   22.0
   23.1
   26.9
   29.5
   25.7
   32.8
   31.3
   31.0
   Plt
   280
   268
   273
   408
   Cr
   1.3
   1.2
   1.1
   1.1
   Glucose
   220
   194
   165
   142
   Other labs: PT / PTT / INR:14.0/22.7/1.2, ALT / AST:24/30, Alk Phos / T
   Bili:39/0.9, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:8.5 mg/dL, Mg++:1.6
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   74 yr old man s/p right TKR on coumadin, lovenox and NSAID, presents
   with melena, HCT 15 due to acute UGI bleed.
   1.      UGIB: duodenal bulb ulcer.
            S/p FFP x 3, Vit K, total of 11 units PRBC, last prbc
   transfusion on [**2-22**]. Stable Hct now.
            Goal is to keep Hct >23, INR < 1.5, continue to check q6h
   Hct.  Continue PPI drip per GI. To be scoped upper/lower on [**2-25**].
   2.      ARF: improving, creat at discharge on [**2-17**] was 1.5, now 1.1.
   Will try to obtain records from [**Hospital 1**] Medical Center.
   3.       Afib: bradycardia to high 20s overnight with 6 second, appears
   to be in afib vs junctional. Anticoag on hold.
             Appreciate EP's input- they have deferred decision on
   pacemaker until OSA treated. Will need to be f/u as outpatient.
   4.       Pain: tylenol, oxycodone prn
   5.       DM: SSRI, FS QID
   6.      OSA: refused BiPAP initially but tolerated and seemed to like
   BiPAP 12/8 last night. Was on CPAP 8 on [**2-22**]. Will try to obtain
   autoCPAP or alternatively continue BiPAP 12/8.
            No OSA documented but significant desats at night to 78%,
   snoring, body habitus all consistent with dx. Will need f/u as
   outpatient with formal split night study.
   7.      Age indeterminate popliteal DVT S/p TKR [**2115-2-9**]. S/p IVC filter
   [**2-22**]
   Stable to transfer to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-2-19**] 10:12 PM
   PICC Line - [**2115-2-20**] 03:57 PM
   Prophylaxis:
   DVT: Boots
   Communication: ICU consent signed Comments:
   Code status: Full code, Disposition : to floor, Total time spent: 30
   minutes